US04707481
Example 7: 6-[4-Methoxy-3-(3-methylbutoxy)phenyl]-3[2H]pyridazinone
The following are obtained analogously: 6-(4-methoxy-3-n-propoxyphenyl)-3[2H]pyridazinone, m.p. 196°, 17.5% of theory, 6-(3-allyloxy-4-methoxyphenyl)-3[2H]pyridazinone, m.p. 175°, 16.3% of theory, 6-(3-ethoxy-4-methoxyphenyl)-3[2H]pyridazinone, m.p. 171°, 15.1% of theory and 6-(4-isopropoxy-3-methoxyphenyl)-3[2H]pyridazinone, m.p. 200°, 26.4% of theory.

reactant | 6-(4-methoxy-3-n-propoxyphenyl)-3[2H]pyridazinone | COC1=C(C=C(C=C1)C=1C=CC(NN1)=O)OCCC | C14H16N2O3
reactant | 6-(3-allyloxy-4-methoxyphenyl)-3[2H]pyridazinone | C(C=C)OC=1C=C(C=CC1OC)C=1C=CC(NN1)=O | C14H14N2O3
reactant | 6-(3-ethoxy-4-methoxyphenyl)-3[2H]pyridazinone | C(C)OC=1C=C(C=CC1OC)C=1C=CC(NN1)=O | C13H14N2O3
reactant | 6-(4-isopropoxy-3-methoxyphenyl)-3[2H]pyridazinone | C(C)(C)OC1=C(C=C(C=C1)C=1C=CC(NN1)=O)OC | C14H16N2O3
product | 6-[4-Methoxy-3-(3-methylbutoxy)phenyl]-3[2H]pyridazinone | COC1=C(C=C(C=C1)C=1C=CC(NN1)=O)OCCC(C)C | C16H20N2O3
